US07553846B2
To a suspension of 2-amino-3-hydroxybenzoic acid hydrobromide (2.0 g, 8.5 mmol) in dichloromethane (25 mL) was added triethylamine (4.77 mL, 34.2 mmol) followed by 1-acetylpiperidine-4-carbonyl chloride hydrochloride (1.93 g, 8.55 mmol) at room temperature. The resulting reaction mixture was stirred at room temperature for 17 h. The reaction was quenched with aqueous 2 N HCl (50 mL). The reaction mixture was extracted with dichloromethane (3×250 mL). The combined organic phase was dried (Na2SO4), filtered and concentrated to afford a light yellow solid. The crude solid was dissolved in toluene (20 mL) and the solution was treated with p-toluenesulfonic acid monohydrate (2.08 g, 10.9 mmol). The reaction mixture was then heated to reflux under nitrogen for 10 h. The reaction was cooled to room temperature, poured into water (100 mL) and extracted with ethyl acetate (3×150 mL). The combined organic phase was washed with water (2×100 mL), brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by column chromatography (silica gel, 9:1 to 7:3 ethyl acetate/methanol) to afford 2-(1-acetylpiperidin-4-yl)benzoxazole-4-carboxylic acid (524 mg, 21%) as a brown solid: 1H NMR (300 MHz, DMSO-d6) δ 10.81 (br s, 1H), 7.48 (dd, J=7.7, 1.6 Hz, 1H), 6.94 (t, J=7.8 Hz, 1H), 6.89 (dd, J=7.7, 1.6 Hz, 1H), 4.45-4.34 (m, 2H), 3.92-3.82 (m, 2H), 3.18-3.05 (m, 1H), 2.07-2.02 (m, 2H), 2.02 (s, 3H), 1.92-1.82 (m, 2H); MS (ESI+) m/z 289 (M+H).

reactant | 2-amino-3-hydroxybenzoic acid hydrobromide | 8.5 mmol, 2.0 g | Br.NC1=C(C(=O)O)C=CC=C1O
reactant | triethylamine | 34.2 mmol, 4.77 mL | C(C)N(CC)CC | C6H15N
reactant | 1-acetylpiperidine-4-carbonyl chloride hydrochloride | 8.55 mmol, 1.93 g | Cl.C(C)(=O)N1CCC(CC1)C(=O)Cl
reactant | p-toluenesulfonic acid monohydrate | 10.9 mmol, 2.08 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
product | 2-(1-acetylpiperidin-4-yl)benzoxazole-4-carboxylic acid | 524 mg, 21% | C(C)(=O)N1CCC(CC1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C15H16N2O4
